US09422292B2
A round bottomed flask was charged with ethyl 3-aminobutanoate (1 ml, 6.82 mmol), 1-fluoro-2-nitrobenzene (0.720 ml, 6.82 mmol), potassium carbonate (1884 mg, 13.63 mmol), and a stirbar. THF (35 mL, 0.2 M) was added, and the mixture was stirred at 100° C. for 36 h. The mixture was concentrated with celite and purified by silica gel chromatography to yield ethyl 3-(2-nitrophenylamino)butanoate as a yellow amorphous solid (0.776 mg, 3.08 mmol, 45%).

reactant | ethyl 3-aminobutanoate | 6.82 mmol, 1 ml | NC(CC(=O)OCC)C | C6H13NO2
reactant | 1-fluoro-2-nitrobenzene | 6.82 mmol, 0.720 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 13.63 mmol, 1884 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 0.2 M, 35 mL | C1CCOC1 | C4H8O
product | ethyl 3-(2-nitrophenylamino)butanoate | 3.08 mmol, 0.776 mg, 45% | [N+](=O)([O-])C1=C(C=CC=C1)NC(CC(=O)OCC)C | C12H16N2O4
